US09145441B2
Compound 85b: 2-Cyano-2-methyl-but-3-enoic acid
2-Cyano-2-methyl-but-3-enoic acid tert-butyl ester (362 mg, 2 mmol) was suspended in 4 M hydrochloric acid in dioxane (10 mL) and the reaction mixture stirred for 38 h and then evaporated. The residue was used directly in the next reaction.

reactant | 2-Cyano-2-methyl-but-3-enoic acid tert-butyl ester | 2 mmol, 362 mg | C(C)(C)(C)OC(C(C=C)(C)C#N)=O | C10H15NO2
solvent | hydrochloric acid | 4 M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-Cyano-2-methyl-but-3-enoic acid | C(#N)C(C(=O)O)(C=C)C | C6H7NO2
